US07160888B2
An intermediate compound, 1-(2,2,3,3-Tetrafluoro-2,3-dihydro-benzo[1,4]dioxin-5-yl)-piperazine, was produced as follows: To the mixture of 2,2,3,3-tetrafluoro-2,3-dihydro-benzo[1,4]dioxin-5-ylamine (8.9 g, 40 mmol) and bis-(2-chloro-ethyl)-carbamic acid tert-butyl ester (14.5 g, 60 mmol) in DMF (200 mL) was added NaH (3.2 g, 60% oil dispersion, 80 mmol) at 0° C. and the resulting mixture was stirred at the same temperature for 1.0 h. No reaction was observed by TLC. The mixture was further stirred at room temperature for 4.0 h until LCMS indicated the starting material disappeared. The reaction was quenched with aq. NH4Cl, extracted with EtOAc, washed with brine, dried and concentrated. The residue was purified by flash chromatography (Et3N:EtOAc:heptane/1:10:100) to afford 4-(2,2,3,3-tetrafluoro-2,3-dihydro-benzo[1,4]dioxin-5-yl)-piperazine-1-carboxylic acid tert-butyl ester (5.2 g, 33%) as colorless crystals.

reactant | 2,2,3,3-tetrafluoro-2,3-dihydro-benzo[1,4]dioxin-5-ylamine | 40 mmol, 8.9 g | FC1(C(OC2=C(O1)C=CC=C2N)(F)F)F | C8H5F4NO2
reactant | bis-(2-chloro-ethyl)-carbamic acid tert-butyl ester | 60 mmol, 14.5 g | C(C)(C)(C)OC(N(CCCl)CCCl)=O | C9H17Cl2NO2
reactant | NaH | 80 mmol, 3.2 g | [H-].[Na+]
solvent | DMF | 200 mL | CN(C)C=O | C3H7NO
product | 4-(2,2,3,3-tetrafluoro-2,3-dihydro-benzo[1,4]dioxin-5-yl)-piperazine-1-carboxylic acid tert-butyl ester | 5.2 g, 33% | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=CC=CC=2OC(C(OC21)(F)F)(F)F | C17H20F4N2O4
